US04616004
Preparation of 1-Methylcarboxy-4-allyl-thiosemicarbazide
Into a stirred mixture of 20 g (0.2 mole) methyl hydrazinocarboxylate in 150 ml methylene chloride, 19.8 g (0.2 mole) allyl isothiocyanate in 50 ml methylene chloride was dropped in. The reaction mixture was refluxed at about 40° C. for 3.5 hours, allowed to stir overnight at ambient temperature, refluxed about 8 hours, stirred overnight at ambient temperature, refluxed 8 hours, stirred overnight at ambient temperature, and refluxed an additional 4 hours. The reaction mixture was cooled, vacuum filtered and the solids dried. The filtrate was poured back into the flask, at which point a precipitate started to form. Hexane was added. A yellow precipitate formed which was vacuum filtered and dried to give 29.6 g of the above-identified product.

reactant | methyl hydrazinocarboxylate | 0.2 mole, 20 g | N(N)C(=O)OC | C2H6N2O2
reactant | allyl isothiocyanate | 0.2 mole, 19.8 g | C(C=C)N=C=S | C4H5NS
reactant | Hexane | CCCCCC | C6H14
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-Methylcarboxy-4-allyl-thiosemicarbazide | 29.6 g | CN(NC(=S)NCC=C)C(=O)O | C6H11N3O2S
